US07427615B2
Synthesis of 2-[2,2-Dimethyl-6-(4-Fluorophenyl)morpholin-4-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (Compound No. B214 in Table-1)
A solution of 2,2-dimethyl-6-(4-fluorophenyl)morpholine hydrochloride (127 mg, 0.517 mmol), 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one (109 mg, 0.491 mmol) and triethylamine (0.180 ml, 1.29 mmol) in N,N-dimethylformamide (2 ml) was stirred at room temperature. After stirring for several hours, water was added to the reaction mixture. The precipitate was filtered, washed with water and dried to give the title compound (166 mg, 81%).

reactant | 2,2-dimethyl-6-(4-fluorophenyl)morpholine hydrochloride | 0.517 mmol, 127 mg | Cl.CC1(CNCC(O1)C1=CC=C(C=C1)F)C
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one | 0.491 mmol, 109 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | triethylamine | 1.29 mmol, 0.180 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[2,2-Dimethyl-6-(4-Fluorophenyl)morpholin-4-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 166 mg, 81% | CC1(CN(CC(O1)C1=CC=C(C=C1)F)C1=NC(=CC(N1C)=O)C1=CC=NC=C1)C | C22H23FN4O2
